US05017701
(a) 2-Amino-6-[(diphenylmethyl)thio]purine
A mixture of thioguanine (25 g), bromodiphenylmethane (37.1 g) and potassium carbonate (31.1 g) in N,N-dimethylformamide (250 cm3) was stirred at ambient temperature for 66 hour. The reaction mixture was filtered and the filtrate evaporated to give a cream solid. Recrystallisation from methanol gave 24 g (48%) of the title compound, m.p. 226°-227° C.

reactant | thioguanine | 25 g | N1C(N)=NC=2N=CNC2C1=S | C5H5N5S
reactant | bromodiphenylmethane | 37.1 g | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | potassium carbonate | 31.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 250 cm3 | CN(C=O)C | C3H7NO
product | 2-Amino-6-[(diphenylmethyl)thio]purine | 24 g, 48% | NC1=NC(=C2NC=NC2=N1)SC(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15N5S
